US04647584
Isopropyl N-(3-methoxy-4-cyanomethoxy-5-formylphenyl)carbamate (0.59 g) was dissolved in ethanol (20 ml). To the solution was added an aqueous solution (10 ml) containing sodium hydroxide (0.32 g) and methoxyamine hydrochloride (0.66 g). After being allowed to stand for 12 hours, the reaction mixture was concentrated in vacuo, and the residue was dissolved in ethyl acetate. The resultant solution was washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give isopropyl N-(3-methoxy-4-cyanomethoxy-5-methoxyiminomethylphenyl)carbamate (Compound No. 78) (0.62 g) in a yield of 94.5%.

reactant | Isopropyl N-(3-methoxy-4-cyanomethoxy-5-formylphenyl)carbamate | 0.59 g | COC=1C=C(C=C(C1OCC#N)C=O)NC(OC(C)C)=O | C14H16N2O5
reactant | sodium hydroxide | 0.32 g | [OH-].[Na+]
reactant | methoxyamine hydrochloride | 0.66 g | Cl.CON
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | isopropyl N-(3-methoxy-4-cyanomethoxy-5-methoxyiminomethylphenyl)carbamate | yield of 94.5% | COC=1C=C(C=C(C1OCC#N)C=NOC)NC(OC(C)C)=O | C15H19N3O5
